US04362666
To the mixture of 100 mg of 1,3,4,14b-tetrahydro-2H,10H-pyrazino[1,2-a]pyrrolo[2,1-c][1,4]-benzodiazepine, 1 ml of N hydrochloric acid and 10 ml of water, the solution of 54.5 mg of sodium cyanate in 2 ml of water is added while stirring followed by 2 ml of tetrahydrofuran. After stirring overnight at room temperature, it is extracted with methylene chloride, the extract washed with saturated aqueous sodium carbonate, dried and evaporated, to yield the 2-carbamoyl-1,3,4,14b-tetrahydro-10H-pyrazino[1,2-a]pyrrolo[2,1-c][1,4]-benzodiazepine melting at 175°-177°.

reactant | 1,3,4,14b-tetrahydro-2H,10H-pyrazino[1,2-a]pyrrolo[2,1-c][1,4]-benzodiazepine | 100 mg | C1NCCN2C1C=1N(CC3=C2C=CC=C3)C=CC1 | C15H17N3
reactant | hydrochloric acid | Cl | ClH
reactant | sodium cyanate | 54.5 mg | [O-]C#N.[Na+]
reactant | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
solvent | water | 2 ml | O | H2O
solvent | water | 10 ml | O | H2O
product | 2-carbamoyl-1,3,4,14b-tetrahydro-10H-pyrazino[1,2-a]pyrrolo[2,1-c][1,4]-benzodiazepine | C(N)(=O)N1CC2N(C3=C(CN4C2=CC=C4)C=CC=C3)CC1 | C16H18N4O
